US07429609B2
5-Bromo-1-trityl-1H-indazole-3-carboxylic acid
2.19 g of 5-bromo-1H-indazole-3-carboxylic acid ethyl ester was dissolved in 40 mL of dimethylformamide, added with 391 mg of 60% sodium hydride (oil-based) and 2.38 g of trityl chloride, and stirred at room temperature for 1 hour. After adding a saturated aqueous ammonium chloride, the reaction solution was extracted with ethyl acetate, and the resultant organic layer was washed with saturated brine, dried over magnesium sulfate, and the solvent was evaporated. The resultant residue was dissolved in a solution of 20 mL of ethanol, 20 mL of tetrahydrofuran and 15 mL of 5N sodium hydroxide aqueous, and stirred at 60° C. for 2 hours. After allowing to cool to room temperature, the reaction solution was neutralized by adding 1N hydrochloric acid, extracted with a mixed solvent of ethyl acetate:tetrahydrofuran=1:1, and the resultant organic layer was washed with saturated brine and dried over magnesium sulfate. After evaporated the solvent, the generated crystals were washed with diethyl ether and filtered to afford 3.3 g of the title compound as pale yellow crystals.

reactant | 5-bromo-1H-indazole-3-carboxylic acid ethyl ester | 2.19 g | C(C)OC(=O)C1=NNC2=CC=C(C=C12)Br | C10H9BrN2O2
reactant | sodium hydride | 391 mg | [H-].[Na+]
reactant | trityl chloride | 2.38 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-1-trityl-1H-indazole-3-carboxylic acid | 3.3 g | BrC=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C27H19BrN2O2
